Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Lithium Carbonate / Depakote / Resperal
 
Attending: ___.
 
Chief Complaint:
suicidal ideation, term pregnancy
 
Major Surgical or Invasive Procedure:
cesarean section
 
History of Present Illness:
___ is a ___ yo G2P1 who was transferred from ___ 
at 38 weeks' gestation with suicical ideation. Her prenatal 
course was also remarkable for gestational diabetes. She was 
admitted for ongoing inpatient psychiattric care with a 24 hour 
sitter and planned to have a repeat cesarean during this 
hospitalization. 
 
Past Medical History:
bipolar disorder
gestational diabetes
prior cesarean section
 
Social History:
single, lives at ___. 
 
Physical Exam:
on madmission, vitals were stable, fetal heart rate was 
reassuring with a reactive nonstress test. abdomen was soft, 
nontender, gravid, consistent with 38 weeks' gestation. 
extremities were unremarkable. pelvic exam was deferred. 
 
Pertinent Results:
___ 02:10PM   GLUCOSE-118* UREA N-7 CREAT-0.5 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-21* ANION GAP-16
___ 02:10PM   estGFR-Using this
___ 02:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:10PM   WBC-9.1 RBC-4.32 HGB-12.9 HCT-38.1 MCV-88 
MCH-29.7 MCHC-33.8 RDW-13.7
___ 02:10PM   NEUTS-74.1* ___ MONOS-3.1 EOS-0.7 
BASOS-0.3
___ 02:10PM   PLT COUNT-289
 
Brief Hospital Course:
Ms. ___ was followed by psychiatry and social work 
services, and remained with a sitter throughout her hospital 
stay. On ___ she became acutely agitated. Cesarean section 
was performed on this day. During the surgery an incidental 
finding of a left paratubal cyst was noted; this was removed at 
the same time. 

Her postoperative course was unremarkable. She remained afebrile 
throughout. On postoperative day 4 she was tolerating a regular 
diet, able to ambulate and void normally, and tolerating po pain 
medications with good control of her pain. She is medically 
cleared to be discharged from the postpartum unit to an 
inpatient psychiatric facility.
 
Medications on Admission:
fluoxetine
haldol
 
Discharge Medications:
1. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every ___ hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
term delivery by repeat cesarean sectio
bipolar disorder with acute suicidal ideation
 
Discharge Condition:
medically stable for transfer to ___ facility
 
Discharge Instructions:
call fro fever, increased pain, heavy vaginal bleeding, 
incisional problems, other concerns.
 
Followup Instructions:
___